US07294644B2
Cyclohexylmethyl-5-(2,5-difluoro-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-amide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(2,5-difluorophenyl)-ethanone as compound of formula S, c-cyclohexyl-methylamine as R3—(CH2)m—NH2 and cis-2-aminomethyl-1-cyclohexanol as R1R2NH, MS (ISP) 445.4 (M+H)+.

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(2,5-difluorophenyl)-ethanone | BrCC(=O)C1=C(C=CC(=C1)F)F | C8H5BrF2O
reactant | cis-2-aminomethyl-1-cyclohexanol | NC[C@@H]1[C@@H](CCCC1)O | C7H15NO
product | Cyclohexylmethyl-5-(2,5-difluoro-phenyl)-2-methyl-1H-pyrrole-3-carboxylic acid ((1RS,2RS)-2-hydroxy-cyclohexylmethyl)-amide | OC1C(CCCC1)CNC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)F)F)CC1CCCCC1)C | C26H34F2N2O2
